US04455307
8-Bromo-1-iodo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine
A stirred mixture of 0.339 gm (1 mmol) of 8-bromo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine and 25 ml of benzene was treated with 0.242 gm (1.1 mmol) of N-iodosuccinimide and refluxed under nitrogen for 12 hr and 40 min. The mixture was cooled and was then mixed with ice water containing sodium bicarbonate and sodium chloride and was finally extracted with methylene chloride. The extract was washed with dilute sodium chloride, dried with sodium sulfate and concentrated in vacuo. The residue was crystallized from methylene chloride-methanol to yield one batch of 0.252 gm, which melted with decomposition between 209° and 212.5° C. and another batch of 0.020 gm which melted with decomposition between 196° and 198.5° C. A portion of the first batch was recrystallized twice by being dissolved in almost pure methylene chloride to which methanol was slowly added during concentration. After this recrystallization, the title product melted with decomposition between 200° and 207° C. Another sample for analysis was prepared by essentially the same procedure and, after recrystallization from methylene chloride-methanol, molded with decomposition between 216° and 219° C. Analysis of the product for carbon, hydrogen and nitrogen showed C: 41.04%, H: 2.11%, N: 12.10%. Calculated values for such an analysis of the product are: C: 41.31%; H: 2.16% and N: 12.05%.

reactant | 8-bromo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 1 mmol, 0.339 gm | BrC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11BrN4
reactant | N-iodosuccinimide | 1.1 mmol, 0.242 gm | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 8-Bromo-1-iodo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)I)C3=CC=CC=C3)C1 | C16H10BrIN4
